US08258134B2
A solution of 4-chloro-5-cyclopentylmethoxy-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one (1.63 g, 5.21 mmol) in methanol (10 mL, 0.52M) was treated with a 6N aqueous hydrochloric acid solution (4.4 mL). The reaction solution was heated to 110° C., where it stirred for 2.5 h and was then allowed to cool to 25° C. The reaction was then diluted with water (100 mL) and brought to basic pH with a 4N aqueous sodium hydroxide solution. This solution was extracted with methylene chloride (1×100 mL). The aqueous layer was then acidified with a 3N aqueous hydrochloric acid solution. The resulting white precipitate was collected by filtration, washed with water, and dried in vacuo to afford 4-chloro-5-cyclopentylmethoxy-2H-pyridazin-3-one (1.06 mg, 89%) as a white solid; ES+-HRMS m/e calcd for C10H13N2O2Cl [M+H+] 229.0739, found 229.0738. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.26-1.40 (m, 2H), 1.47-1.68 (m, 4H), 1.70-1.82 (m, 2H), 2.22-2.38 (m, 1H), 4.22 (d, J=6.8 Hz, 2H), 8.19 (s, 1H), 13.28 (brs, 1H).

reactant | 4-chloro-5-cyclopentylmethoxy-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one | 5.21 mmol, 1.63 g | ClC=1C(N(N=CC1OCC1CCCC1)C1OCCCC1)=O | C15H21ClN2O3
reactant | hydrochloric acid | 6N, 4.4 mL | Cl | ClH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | methanol | 0.52M, 10 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 4-chloro-5-cyclopentylmethoxy-2H-pyridazin-3-one | 1.06 mg, 89% | ClC=1C(NN=CC1OCC1CCCC1)=O | C10H13ClN2O2
